US08138352B2
(−)-7-Amino-7-methyl-5-azaspiro[2.4]heptane dihydrochloride
Methanol (91 mL) was added to (−)-7-amino-5-benzyl-7-methyl-5-azaspiro[2.4]heptane (16.2 g) for dissolution. To the solution, 5% palladium carbon (5.33 g, water content: 50%) and concentrated hydrochloric acid (15.8 mL) were added. A reaction vessel was purged with hydrogen gas, and the mixture placed in the reaction vessel was stirred for 13 hours. The catalyst was removed through filtration and washing with ethanol. All the organic layers were combined and concentrated under reduced pressure. Ethanol and isopropyl alcohol were added to the residue, and the mixture was concentrated under reduced pressure several times under azeotropic conditions. After azeotropy, isopropyl alcohol was added to the residue, and the mixture was stirred at room temperature so as to precipitate crystals. The crystals were collected through filtration and dried under reduced pressure, to thereby yield first crystals of the title compound (9.75 g, yield: 80%). Through elemental analysis, the obtained first crystals were found to be a dihydrochloride salt. To another residue obtained through concentration of the filtrate, methanol and isopropyl alcohol were added, and the mixture was cooled so as to precipitate crystals. The crystals were collected through filtration and dried under reduced pressure, to thereby yield second crystals of the title compound (1.41 g, yield: 120).

reactant | (−)-7-amino-5-benzyl-7-methyl-5-azaspiro[2.4]heptane | 16.2 g | NC1(CN(CC12CC2)CC2=CC=CC=C2)C | C14H20N2
reactant | hydrochloric acid | 15.8 mL | Cl | ClH
catalyst | palladium carbon | 5.33 g | [C].[Pd]
solvent | Methanol | 91 mL | CO | CH4O
product | (−)-7-Amino-7-methyl-5-azaspiro[2.4]heptane dihydrochloride | 9.75 g, yield: 80% | Cl.Cl.NC1(CNCC12CC2)C | InChI=1S/C7H14N2.2ClH/c1-6(8)4-9-5-7(6)2-3-7;;/h9H,2-5,8H2,1H3;2*1H
